US08202858B2
N-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-benzyl]-2-piperidin-4-yl-acetamide Hydrochloride
A solution of 4-{[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-benzylcarbamoyl]-methyl}-piperidine-1-carboxylic acid tert-butyl ester (Compound number 1067) (156 mg, 0.27 mmol) was reacted with 4N HCl/dioxan using an analogous procedure to that described for Example E4.2 to yield the title compound (135 mg, 97%).

reactant | 4-{[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-benzylcarbamoyl]-methyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.27 mmol, 156 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(NCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C32H40N6O4
reactant | HCl dioxan | 4N | Cl.O1CCOCC1
product | N-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-benzyl]-2-piperidin-4-yl-acetamide Hydrochloride | 135 mg, 97% | Cl.CC1=C(CNC(CC2CCNCC2)=O)C=CC(=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2 | InChI=1S/C27H32N6O2.ClH/c1-18-13-20(7-8-21(18)15-29-25(34)14-19-9-11-28-12-10-19)27(35)33-17-22-16-30-32(2)26(22)31-23-5-3-4-6-24(23)33;/h3-8,13,16,19,28,31H,9-12,14-15,17H2,1-2H3,(H,29,34);1H
